US04885298
A solid mixture of 10 g 6-methyl-thioflavanone, 13 g 4-acetylaminobenzaldehyde and 8 drops piperidine is heated at 150°-160° C. for 3 hours. After allowing to cool, the crude brown glass is crystallized from ethanol. Pure 3-(4-acetylaminobenzylidene)-6-methyl-thioflavanone is obtained as a yellow solid; m.p. 197°-198° C.

reactant | 6-methyl-thioflavanone | 10 g | CC=1C=C2C(CC(OC2=CC1)C1=CC=CC=C1)=S | C16H14OS
reactant | 4-acetylaminobenzaldehyde | 13 g | C(C)(=O)NC1=CC=C(C=O)C=C1 | C9H9NO2
catalyst | piperidine | 8 drops | N1CCCCC1 | C5H11N
product | 3-(4-acetylaminobenzylidene)-6-methyl-thioflavanone | C(C)(=O)NC1=CC=C(C=C2C(OC3=CC=C(C=C3C2=S)C)C2=CC=CC=C2)C=C1 | C25H21NO2S
